US04620938
A mixture of 36.3 g of trans-1-p-bromophenyl-4-(trans-4-propylcyclohexyl)-cyclohexane, 10 g of Cu2 (CN)2, 120 ml of pyridine and 60 ml of N-methylpyrrolidone is heated to 160° for 2 hours. The mixture is cooled, a solution of 120 g of FeCl3.6H2O in 600 ml of 20% hydrochloric acid and the mixture is warmed to 70° for 1.5 hours, while stirring, and worked up in the customary manner to give trans-1-p-cyanophenyl-4-(trans-4-propylcyclohexyl)-cyclohexane, m.p. 55°, c.p. 184°.

reactant | trans-1-p-bromophenyl-4-(trans-4-propylcyclohexyl)-cyclohexane | 36.3 g | BrC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C21H31Br
reactant | (CN)2 | C(#N)C#N | C2N2
reactant | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
reactant | N-methylpyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
solvent | hydrochloric acid | 600 ml | Cl | ClH
product | trans-1-p-cyanophenyl-4-(trans-4-propylcyclohexyl)-cyclohexane | C(#N)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C22H31N
